US08809317B2
4.5.4.3 Synthesis of 3,7-bis(bis(2-methoxyethyl)amino)-1-methylphenothiazin-5-ium bromide
To a solution of 1-methyl-3,7-dibromophenothiazinium bromide (315 mg, 0.7 mmol) in chloroform (15 mL) kept under argon, bis(2-methoxyethyl)amine (0.52 mL, 3.5 mmol) was added (30 min) with vigorous stirring. The mixture was stirred for 3 h and after that extracted once with aqueous HBr (30 mL, 1% v/v) and then twice with water. The organic layer was dried (Na2SO4), concentrated and dried under vacuum (93 mg, 24% yield). The desired final product was purified by flash chromatography.

reactant | 1-methyl-3,7-dibromophenothiazinium bromide | 0.7 mmol, 315 mg | [Br-].CC1=CC(=CC=2SC3=CC(=CC=C3[NH2+]C12)Br)Br
reactant | bis(2-methoxyethyl)amine | 3.5 mmol, 0.52 mL | COCCNCCOC | C6H15NO2
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
product | 3,7-bis(bis(2-methoxyethyl)amino)-1-methylphenothiazin-5-ium bromide | 24% yield | [Br-].COCCN(C=1C=C(C2=NC3=CC=C(C=C3[S+]=C2C1)N(CCOC)CCOC)C)CCOC | InChI=1S/C25H36N3O4S.BrH/c1-19-16-21(28(10-14-31-4)11-15-32-5)18-24-25(19)26-22-7-6-20(17-23(22)33-24)27(8-12-29-2)9-13-30-3;/h6-7,16-18H,8-15H2,1-5H3;1H/q+1;/p-1
